US09238644B2
(f) 2-(2-(2-(2,5-Dichloropyrimidin-4-yl)ethyl)phenyl)-2-methylpropanamide (A38)
A mixture of 2-(2-((2,5-dichloropyrimidin-4-yl)ethynyl)phenyl)-2-methylpropanamide A37 (0.067 g, 0.20 mmol) and PtO2 (0.014 g, 0.060 mmol) in MeOH (3.0 mL) and DMF (3.0 mL) was stirred in an atmosphere of H2 for 64 hours. The mixture was diluted with EtOAc, filtered through Celite and the filtrate solvent was removed in vacuo. The residue was purified by column chromatography (Biotage Isolera, 12 g SiO2, 0-100% EtOAc in petroleum benzine 40-60° C.) to give the title compound A38 as an off-white solid (0.042 g, 62%). LCMS-D: rt 3.37 min; m/z 338 [M+H]+.

reactant | 2-(2-((2,5-dichloropyrimidin-4-yl)ethynyl)phenyl)-2-methylpropanamide | ClC1=NC=C(C(=N1)C#CC1=C(C=CC=C1)C(C(=O)N)(C)C)Cl | C16H13Cl2N3O
solvent | MeOH | 3.0 mL | CO | CH4O
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PtO2 | 0.060 mmol, 0.014 g | O=[Pt]=O
product | 2-(2-(2-(2,5-Dichloropyrimidin-4-yl)ethyl)phenyl)-2-methylpropanamide | ClC1=NC=C(C(=N1)CCC1=C(C=CC=C1)C(C(=O)N)(C)C)Cl | C16H17Cl2N3O
